US07268128B2
tert-Butyl 4-[(benzyloxy)methyl]-1-piperidinecarboxylate
To a 30 ml N,N-dimethylformamide solution of 2.4 g (11.15 mmol) of tert-butyl 4-hydroxymethyl-1-piperidinecarboxylate, 557 mg (60% in oil, 13.9 mmol) of sodium hydride and 1.86 ml (15.6 mmol) of benzyl bromide were added with ice cooling. The mixture was stirred at room temperature for 23 hours. Then, the reaction mixture was diluted with ethyl acetate, and the dilution was washed with water and a saturated aqueous solution of sodium chloride in this order. The washed system was dried over sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain 3.5 g (quantitative) of the captioned compound.

reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | tert-butyl 4-hydroxymethyl-1-piperidinecarboxylate | 11.15 mmol, 2.4 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | sodium hydride | 13.9 mmol, 557 mg | [H-].[Na+]
reactant | benzyl bromide | 15.6 mmol, 1.86 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[(benzyloxy)methyl]-1-piperidinecarboxylate | C(C1=CC=CC=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C | C18H27NO3
